US05710297
2.00 ml (3.22 mmol) of a 1.60M ethereal solution of methyllithium are added dropwise at 0° C. to a solution of 500 mg (1.61 mmol) of the bisisopropyl-substituted compounds (Examples 23a and 23b) in 20 ml of pentane. The mixture is allowed to warm to room temperature, giving, after 12 hours, a cloudy, orange suspension, which is cooled to -78° C. and treated with 373 mg (1.61 mmol) of zirconium tetrachloride. After the mixture has been stirred at room temperature for 24 hours, the insoluble constituents are filtered off, and the solvent is removed in vacuo, giving the two diastereomers of the ansa-zirconocene as an orange powder in a crude yield of 300 mg (40%). The 1H-NMR spectrum shows the resonance signals of the two diastereomers in the ratio 1:1 (determined from the i-Pr groups).

reactant | methyllithium | C[Li]
reactant | zirconium tetrachloride | 1.61 mmol, 373 mg | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | pentane | 20 ml | CCCCC | C5H12
product | zirconocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2] | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
